US07750003B2
Phenyl N-[4-[4-[(3,5-difluorophenyl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate
Phenyl chloroformate (0.208 mL, 1.66 mmol) was added to 4-[4-[(3,5-difluorophenyl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline (693 mg, 1.50 mmol) and sodium hydrogen carbonate (190 mg, 2.26 mmol) in dioxane (10 mL). The resulting slurry was stirred at RT for 1 hour. The mixture was partitioned between ethyl acetate and water. The organic solution was dried (MgSO4) and concentrated under reduced pressure. The residue was chromatographed on silica, eluting with 25%-80% ethyl acetate in isohexane, to give the desired product as a yellow dry film (827 mg).

reactant | Phenyl chloroformate | 1.66 mmol, 0.208 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-[4-[(3,5-difluorophenyl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline | 1.50 mmol, 693 mg | FC=1C=C(C=C(C1)F)S(=O)(=O)CC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(N)C=C1 | C22H22F2N4O3S
reactant | sodium hydrogen carbonate | 2.26 mmol, 190 mg | C(O)([O-])=O.[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | Phenyl N-[4-[4-[(3,5-difluorophenyl)sulfonylmethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate | FC=1C=C(C=C(C1)F)S(=O)(=O)CC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C29H26F2N4O5S
